US07935674B2
4-Chloro-3-(4-(2-Fluoroethyloxy)phenylmethyl)-1-(β-D-glucopyranosyl)indole
4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole obtained in Example 1-(3) and 4-(2-fluoroethyloxy)benzoyl chloride were treated in a manner similar to Example 3 to give the titled compound as a colorless powder. APCI-Mass m/Z 466/468 (M+H). 1H-NMR (DMSO-d6) δ 3.24 (td, J=8.8, 5.7 Hz, 1H), 3.38-3.47 (m, 3H), 3.62-3.69 (m, 2H), 4.14-4.16 (m, 1H), 4.20 (s, 2H), 4.20-4.22 (m, 1H), 4.53 (t, J=5.5 Hz, 1H), 4.66-4.67 (m, 1H), 4.76-4.77 (m, 1H), 5.09 (d, J=5.31 Hz, 1H), 5.15 (d, J=5.0 Hz, 1H), 5.21 (d, J=5.8 Hz, 1H), 5.39 (d, J=9.0 Hz, 1H), 6.87 (d, J=8.7 Hz, 2H), 7.02 (d, J=7.5 Hz, 1H), 7.09 (t, J=7.9 Hz, 1H), 7.15 (d, J=8.5 Hz, 2H), 7.22 (s, 1H), 7.53 (d, J=8.2 Hz, 1H).

reactant | 4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole | ClC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24ClNO9
reactant | 4-(2-fluoroethyloxy)benzoyl chloride | FCCOC1=CC=C(C(=O)Cl)C=C1 | C9H8ClFO2
product | 4-Chloro-3-(4-(2-Fluoroethyloxy)phenylmethyl)-1-(β-D-glucopyranosyl)indole | ClC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OCCF | C23H25ClFNO6
